US09193720B2
A solution of 2-(2,4-dimethylthiazol-5-yl)acetic acid (230 mg, 1.343 mmol) in dry THF (10 mL) was carefully added over 2 min to solution of 2M LAH (1.343 mL, 2.69 mmol) in dry THF (10 mL) at 0° C. The reaction mixture was allowed to warm to rt and was stirred for 6 h. The reaction was quenched with 0.2 mL of water (stir for 10 min), 0.2 mL of 15% NaOH/water (stir for 10 min), and then 0.4 mL of water. After stirring for 18 h, the mixture was filtered through celite. The filtrate was concentrated in vacuum. The residue was dried under high vacuum for 16 h to afford 2-(2,4-dimethylthiazol-5-yl)ethanol (180 mg, 1.145 mmol, 85% yield) as a clear viscous oil. 1H NMR (500 MHz, CDCl3) δ 3.83 (t, J=6.3 Hz, 2H), 2.97 (t, J=6.3 Hz, 2H), 2.64 (s, 3H), 2.35 (s, 3H).

reactant | 2-(2,4-dimethylthiazol-5-yl)acetic acid | 1.343 mmol, 230 mg | CC=1SC(=C(N1)C)CC(=O)O | C7H9NO2S
reactant | LAH | 2.69 mmol, 2M, 1.343 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2,4-dimethylthiazol-5-yl)ethanol | 1.145 mmol, 180 mg, 85% yield | CC=1SC(=C(N1)C)CCO | C7H11NOS
